US07319104B2
2-(4-{2-[[2,4-Bis(trifluoromethyl)benzyl](4-tert-butyl-1,3-thiazol-2-yl)amino]ethyl}phenoxy)-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{(aminocarbonothioyl)[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 1-bromopinacolone.

reactant | ethyl 2-[4-(2-{(aminocarbonothioyl)[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | NC(=S)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C24H26F6N2O3S
reactant | 1-bromopinacolone | BrCC(C(C)(C)C)=O | C6H11BrO
product | 2-(4-{2-[[2,4-Bis(trifluoromethyl)benzyl](4-tert-butyl-1,3-thiazol-2-yl)amino]ethyl}phenoxy)-2-methylpropanoic acid | FC(C1=C(CN(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=2SC=C(N2)C(C)(C)C)C=CC(=C1)C(F)(F)F)(F)F | C28H30F6N2O3S
